data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_289879_0,[C:1](=[C:3]([C:2]([C:5](=[O:8])[H:13])([O:6][H:10])[O:7][H:9])[N:4]([H:11])[H:12])([H:14])[H:15]>>[C:1]([C:3](=[C:2]([O:6][H:10])[O:7][H:9])[N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])([H:14])[H:15],38.071680000006864
MR_539769_0,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3](=[N:8]\[H:10])[H:11])(/[C:4](=[C:5](/[C:6](=[C:7]([H:18])[H:19])[H:14])[H:13])[H:12])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[C:5](/[C:3](=[N:8]\[H:10])[H:11])([C:6](=[C:7]([H:18])[H:19])[H:14])[H:13])[H:12])[H:9],66.23199750003337
MR_31378_0,[C@:1]([C:2]([H:15])([H:16])[H:17])(/[C:3](=[C:6](\[N:5]([H:12])[H:13])[H:14])[O:7][H:8])([N:4]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:3](\[C:6]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:14])[O:7][H:8])[H:9],68.35608499998528
MR_134410_1,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([C:5]12[C:6]([C:4]([H:20])([H:21])[H:22])([C:8]([H:13])=[C:7]1[H:12])[O:9]2)[O:10][H:11]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([c:5]1[c:7]([H:12])[c:8]([H:13])[c:6]([C:4]([H:20])([H:21])[H:22])[o:9]1)[O:10][H:11],43.12807500001029
MR_294027_2,[C:1]([C:3]1([C:2]([O:6][H:10])([H:15])[H:16])/[C:4](=[N:8]/[H:12])[N:7]1[H:11])([O:5][H:9])([H:13])[H:14]>>[C:1]([C:3](/[C:4]([C:2]([O:6][H:10])([H:15])[H:16])=[N:8]\[H:12])=[N:7]\[H:11])([O:5][H:9])([H:13])[H:14],56.63752250000201
MR_53651_1,[C:1]([C:3]12[C:5]([H:8])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]1[H:9])[O:7]2)([H:10])([H:11])[H:12]>>[C:1]([c:3]1[c:6]([H:9])[c:4]([C:2]([H:13])([H:14])[H:15])[c:5]([H:8])[o:7]1)([H:10])([H:11])[H:12],36.169727499993485
MR_332418_1,[C:1]([C:5]([C:2]([N:4]([H:12])[H:13])=[O:9])([C:3]([O:7][H:11])=[O:8])[H:16])([O:6][H:10])([H:14])[H:15]>>[C:1]([C:5](=[C:3]([O:7][H:11])[O:8][H:10])[H:16])([O:6][C:2]([N:4]([H:12])[H:13])=[O:9])([H:14])[H:15],57.137639999916416
MR_678543_1,[C:1](/[C:4](=[C:3](\[N:2]([C:6](=[O:8])[H:13])[H:10])[O:7][H:9])[N:5]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4](/[C:3](=[N:2]\[H:10])[O:7][H:9])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13])([H:14])([H:15])[H:16],56.60803000000513
MR_249196_0,[C:1]([C:2](/[N:9]=[C:5](/[N:6]([H:12])[H:13])[O:8][H:11])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:7][H:10]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:2]([H:14])([H:15])[N:9]1[C:5]([N:6]([H:12])[H:13])([O:7][H:10])[O:8][H:11],73.03974500000237
MR_181940_2,[C@:1]1(/[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6](/[C:4]([H:17])([H:18])[H:19])[N:7]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[O:8]1>>[C:1]1(/[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6](/[C:4]([H:17])([H:18])[H:19])[N:7]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[O:8]1,54.217255000013154
MR_98241_1,[C:1](/[N:6]=[C:3](/[N:2]([O:5][H:7])[H:8])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]1[N:2]([H:8])[C:3]1([N:4]([H:9])[H:10])[O:5][H:7])([H:11])([H:12])[H:13],69.97817249999187
MR_50192_1,[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](/[C:6](=[C:4](/[O:7][H:8])[H:9])[H:11])[H:10])([H:12])([H:13])[H:17]>>[C:1]([C:3]1([C:2]([H:14])([H:15])[H:16])[C:4]([O:7][H:8])([H:9])[C:6]([H:11])=[C:5]1[H:10])([H:12])([H:13])[H:17],42.16297999998574
MR_401020_2,[C:1](/[C:3](=[C:2](\[N:4][C:6][N:5][H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C@@:3]1([H:9])[C:2]([H:8])[N:4]=[C:6]1[N:5][H:7])([H:10])([H:11])[H:12],50.30542000000921
MR_69202_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:9])[H:10])([N:6][C:4]([O:5][H:7])[H:11])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([N:3]([H:9])[H:10])=[N:6]\[C:4]([O:5][H:7])([H:8])[H:11],60.72568500002447
MR_164009_1,[C:1](/[C:5]([C:6]([C:2]([H:14])([H:15])[H:16])=[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])=[N:9]\[O:8][H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5]1=[C:6]([C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[N:9]1[O:8][H:10])([H:11])([H:12])[H:13],35.40857000002475
MR_458728_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[C:4]12[C:6]([H:10])=[C:5]([H:9])[N:8]1[O:7]2)([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[c:4]1[c:6]([H:10])[c:5]([H:9])[n:8][o:7]1)([H:11])([H:12])[H:13],3.225349999989362
MR_583265_0,[C:1]([C:2]([C:4](=[O:7])[H:11])[N:5][H:10])([N:3]([H:8])[H:9])=[O:6]>>[C:1]([N:3]([H:8])[H:9])([C@:4]1([H:11])/[C:2](=[N:5]/[H:10])[O:7]1)=[O:6],68.87565499999326
MR_100337_0,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])(/[C:4]([N:6]([H:11])[H:12])=[C:8](/[N:7]([H:13])[H:14])[H:15])[N:5]([H:9])[H:10]>>[C:1]1([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])[C:4]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:8]1([N:7]([H:13])[H:14])[H:15],56.03637749995031
MR_64646_1,[C:1]([O:6][C:4](/[N:3]=[C:5](\[C:2]([H:13])([H:14])[H:15])[O:8][H:9])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([O:6][C:4]([N:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:9])=[O:7])([H:10])([H:11])[H:12],21.990110000017324
